US07410976B2
6-bromo-1′-(tert-butoxycarbonyl)spiro[chroman-2,4′-piperidin]-4-one.
60 mL of MeOH, 7.97 g of N-Boc-piperidin-4-one, and 3.34 mL of pyrrolidine were added to 8.60 g of 5-bromo-2-hydroxyacetophenone put in a 200-mL flask equipped with a condenser, and the mixture was overnight heated under reflux. The reaction mixture was cooled to room temperature, and concentrated. The residue was purified through silica gel column chromatography (eluted with n-hexane/EtOAc=6/1) to obtain the intended compound as a pale yellow solid.

reactant | N-Boc-piperidin-4-one | 7.97 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 3.34 mL | N1CCCC1 | C4H9N
reactant | 5-bromo-2-hydroxyacetophenone | 8.60 g | CC(=O)C1=C(C=CC(=C1)Br)O | C8H7BrO2
solvent | MeOH | 60 mL | CO | CH4O
product | 6-bromo-1′-(tert-butoxycarbonyl)spiro[chroman-2,4′-piperidin]-4-one | BrC=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C18H22BrNO4
